US08334301B2
1-(2-chlorophenyl)-5-[(6-chloropyridin-3-yl)thio]-N-methyl-1H-pyrazole-3-carboxamide
To a solution of ethyl 1-(2-chlorophenyl)-5-[(6-chloropyridin-3-yl)thio]-1H-pyrazole-3-carboxylate (2.06 g) in methanol (4 mL) was added 40% methylamine-methanol solution (6 mL) at room temperature and the mixture was stirred for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→4:1) to give the title compound as a pale-yellow amorphous form (yield 1.75 g, yield 88%).

reactant | ethyl 1-(2-chlorophenyl)-5-[(6-chloropyridin-3-yl)thio]-1H-pyrazole-3-carboxylate | 2.06 g | ClC1=C(C=CC=C1)N1N=C(C=C1SC=1C=NC(=CC1)Cl)C(=O)OCC | C17H13Cl2N3O2S
reactant | methylamine methanol | 6 mL | CN.CO
solvent | methanol | 4 mL | CO | CH4O
product | 1-(2-chlorophenyl)-5-[(6-chloropyridin-3-yl)thio]-N-methyl-1H-pyrazole-3-carboxamide | yield 88% | ClC1=C(C=CC=C1)N1N=C(C=C1SC=1C=NC(=CC1)Cl)C(=O)NC | C16H12Cl2N4OS
